US08349828B2
G.i. (2RS)-2-(tert-butoxycarbonylamino-methyl)-3-(7-fluoro-2-methoxy-quinolin-8-yl)-propionic acid ethyl ester
To a solution of LiHMDS (1M, 20 mL), cooled to −78° C., was added dropwise a solution of 3-tert-butoxycarbonylamino-propionic acid ethyl ester (2.01 g, 9.26 mmol; prepared as in Tetrahedron Lett. (2003), 44(14), 2807) in THF (20 mL). The solution was stirred at the same temperature for 90 min. A solution of 8-bromomethyl-7-fluoro-2-methoxy-quinoline (2.5 g; prepared as in WO 2007/081597) in THF (10 mL) was quickly added and the reaction proceeded for 2 h, keeping the internal temperature below −50° C. Water (100 mL) and EA (200 mL) were added. The two layers were separated and the aq. layer was extracted with EA. The combined org. layers were washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by CC (Hept-EA 2:1) to afford the title intermediate as a pale yellow oil, which solidified (2.83 g, 75% yield) after standing at rt for one day.

reactant | LiHMDS | 1M, 20 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3-tert-butoxycarbonylamino-propionic acid ethyl ester | 9.26 mmol, 2.01 g | C(C)OC(CCNC(=O)OC(C)(C)C)=O | C10H19NO4
reactant | 8-bromomethyl-7-fluoro-2-methoxy-quinoline | 2.5 g | BrCC=1C(=CC=C2C=CC(=NC12)OC)F | C11H9BrFNO
reactant | Water | 100 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EA | 200 mL | CC(OCC)=O | C4H8O2
product | (2RS)-2-(tert-butoxycarbonylamino-methyl)-3-(7-fluoro-2-methoxy-quinolin-8-yl)-propionic acid ethyl ester | 75% yield | C(C)OC(C(CC=1C(=CC=C2C=CC(=NC12)OC)F)CNC(=O)OC(C)(C)C)=O | C21H27FN2O5
